US07056932B2
(RS)-[1-Amino-1-[4-({2-methoxy-2-[l -(2-trimethylsilanyl-ethoxymethyl)-1H-benzoimidazol-2-yl]-acetylamino }-methyl)-phenyl]-meth-(E)-ylidene]-carbamic acid benzyl ester (0.5 g) was heated in 5 N HCl (20 ml) to 50° C. and stirring at that temperature was continued for 4 h. After cooling to r.t., the mixture was washed with EtOAc and cooled to 0° C. The pH was brought to ˜12 by the dropwise addition of 4 N NaOH. The mixture was then extracted with EtOAc. The combined organics were washed with brine, dried (MgSO4), filtered and concentrated to give (RS)-[1-amino-1-(4-{[2-(1H-benzoimidazol-2-yl)-2-methoxy-acetylamino]-methyl}-phenyl)-meth-(E)-ylidene]-carbamic acid benzyl ester (0.258 g) as light yellow solid. MS472.3 ([M+H]+)

reactant | (RS)-[1-Amino-1-[4-({2-methoxy-2-[l -(2-trimethylsilanyl-ethoxymethyl)-1H-benzoimidazol-2-yl]-acetylamino }-methyl)-phenyl]-meth-(E)-ylidene]-carbamic acid benzyl ester | 0.5 g | C(C1=CC=CC=C1)OC(/N=C(\C1=CC=C(C=C1)CNC(C(C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2)OC)=O)/N)=O | C32H39N5O5Si
solvent | HCl | 5 N, 20 ml | Cl | ClH
product | (RS)-[1-amino-1-(4-{[2-(1H-benzoimidazol-2-yl)-2-methoxy-acetylamino]-methyl}-phenyl)-meth-(E)-ylidene]-carbamic acid benzyl ester | 0.258 g | C(C1=CC=CC=C1)OC(/N=C(\C1=CC=C(C=C1)CNC(C(OC)C1=NC2=C(N1)C=CC=C2)=O)/N)=O | C26H25N5O4
